US06469167B1
4-Hydroxybenzaldehyde (250 g, 2.05 M), potassium carbonate (565 g, 4.09 M), toluene (2.5 L), methanesulfonic acid (20 g, 0.21 M) and iodine (2 g, catalytic) were taken in a 5 L 4-neck round bottom flask with mechanical stirrer and a Dean-Stark condenser. Ethylbromoacetate (341 g, 2.05 M) was added and the reaction was refluxed for 6-8 hours, under azeotropic removal of water, while monitoring the reaction on TLC. After the completion of the reaction, water was added and the organic layer separated while the aq. layer was extracted with toluene (2×500 ml). The combined organic layers were washed with brine and concentrated under vacuum to yield 4-((carboethoxy)methoxy)benzaldehyde as an oily material (400 g, Y=94%, P=99%).

reactant | 4-Hydroxybenzaldehyde | 2.05 M, 250 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 4.09 M, 565 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonic acid | 0.21 M, 20 g | CS(=O)(=O)O | CH4O3S
reactant | iodine | 2 g | II | I2
reactant | Ethylbromoacetate | 2.05 M, 341 g | C(C)OC(CBr)=O | C4H7BrO2
solvent | water | O | H2O
solvent | toluene | 2.5 L | C1(=CC=CC=C1)C | C7H8
product | 4-((carboethoxy)methoxy)benzaldehyde | C(=O)(OCC)COC1=CC=C(C=O)C=C1 | C11H12O4
